US04359332
To a solution of cyclohexylamine (14.6 g, 0.147 mole) in 100 ml. of ether was added dropwise with stirring ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (11.55 g, 0.035 mole) in 200 ml. of ether. The reaction was stirred overnight at room temperature, then filtered and the filtrate concentrated in vacuo to yield a gum-solid. Upon trituration with petroleum ether, ethyl N-trifluoroacetyl-N-(bis(cyclohexylamino)phosphonomethyl)glycinate (6.65 g) was obtained as a white solid, m.p. 118.5°-123° C.

reactant | cyclohexylamine | 0.147 mole, 14.6 g | C1(CCCCC1)N | C6H13N
reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.035 mole, 11.55 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(bis(cyclohexylamino)phosphonomethyl)glycinate | 6.65 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(ONC1CCCCC1)ONC1CCCCC1)(F)F | C19H33F3N3O6P
